### PR TITLE
feat(Topology/Algebra): linearly topologized iff non-archimedean

### PR DESCRIPTION
**Pull request by erdOne**
...for topological modules over compact rings or `ℤ`-finite rings

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/LinearTopology.lean [hunk 1]
```diff
@@ -154,6 +154,16 @@ theorem _root_.isLinearTopology_iff_hasBasis_open_submodule [ContinuousAdd M] :
...
 
+theorem _root_.isLinearTopology_iff_exists_submodule_isOpen_subset [ContinuousAdd M] :
+    IsLinearTopology R M ↔
+      ∀ s : Set M, IsOpen s → 0 ∈ s → ∃ N : Submodule R M, IsOpen (X := M) N ∧ ↑N ⊆ s := by
+  rw [isLinearTopology_iff_hasBasis_open_submodule, hasBasis_iff]
+  refine ⟨fun H s hs h0s ↦ (H _).mp (hs.mem_nhds h0s), fun H t ↦ ?_⟩
+  refine ⟨fun ht ↦ ?_, fun ⟨N, hN, hNt⟩ ↦ mem_of_superset (hN.mem_nhds N.zero_mem) hNt⟩
+  obtain ⟨s, hst, hs, h0s⟩ := mem_nhds_iff.mp ht
+  obtain ⟨N, hN, hNs⟩ := H s hs h0s
+  exact ⟨N, hN, hNs.trans hst⟩
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Algebra/LinearTopology.lean:165]: I would like to avoid using the new lemma about open submodules.
```suggestion
  simp only [isLinearTopology_iff_hasBasis_submodule, hasBasis_iff]
  intro s
  refine ⟨fun h0s ↦ ?_, fun ⟨V, hV0, hVs⟩ ↦ mem_of_superset hV0 hVs⟩
  obtain ⟨V, hV⟩ := NonarchimedeanAddGroup.is_nonarchimedean s h0s
  exact ⟨V.1.toIntSubmodule, (isOpen_iff_mem_nhds.mp V.2) 0 V.zero_mem, hV⟩
```

File: Mathlib/Topology/Algebra/LinearTopology.lean [hunk 2]
```diff
@@ -261,6 +271,96 @@ theorem _root_.IsCentralScalar.isLinearTopology_iff [Module Rᵐᵒᵖ M] [IsCen
...
+  exact ⟨⟨N.toAddSubgroup, N.toAddSubgroup.isOpen_of_mem_nhds hN⟩, hNU⟩
+
+lemma _root_.isLinearTopology_int_iff_nonarchimedeanAddGroup [IsTopologicalAddGroup M] :
+    IsLinearTopology ℤ M ↔ NonarchimedeanAddGroup M := by
+  refine ⟨fun _ ↦ IsLinearTopology.nonarchimedeanAddGroup ℤ M, fun _ ↦ ?_⟩
+  refine isLinearTopology_iff_exists_submodule_isOpen_subset.mpr fun s hs h0s ↦ ?_
+  obtain ⟨V, hV⟩ := NonarchimedeanAddGroup.is_nonarchimedean s (hs.mem_nhds h0s)
+  exact ⟨V.1.toIntSubmodule, V.2, hV⟩
+
+instance [NonarchimedeanAddGroup M] : IsLinearTopology ℤ M :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Algebra/LinearTopology.lean:288]: I can't decide whether this or that instance is useful/will add noise to the typeclass inference system. But having two equivalent types that are phrased differently looks annoying to me.

File: Mathlib/Topology/Algebra/LinearTopology.lean [hunk 3]
```diff
@@ -261,6 +271,96 @@ theorem _root_.IsCentralScalar.isLinearTopology_iff [Module Rᵐᵒᵖ M] [IsCen
...
+  refine ⟨fun U hU ↦ ?_⟩
+  obtain ⟨N, hN, hNU⟩ := (hasBasis_submodule R).mem_iff.mp hU
+  exact ⟨⟨N.toAddSubgroup, N.toAddSubgroup.isOpen_of_mem_nhds hN⟩, hNU⟩
+
+lemma _root_.isLinearTopology_int_iff_nonarchimedeanAddGroup [IsTopologicalAddGroup M] :
+    IsLinearTopology ℤ M ↔ NonarchimedeanAddGroup M := by
+  refine ⟨fun _ ↦ IsLinearTopology.nonarchimedeanAddGroup ℤ M, fun _ ↦ ?_⟩
+  refine isLinearTopology_iff_exists_submodule_isOpen_subset.mpr fun s hs h0s ↦ ?_
+  obtain ⟨V, hV⟩ := NonarchimedeanAddGroup.is_nonarchimedean s (hs.mem_nhds h0s)
+  exact ⟨V.1.toIntSubmodule, V.2, hV⟩
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Algebra/LinearTopology.lean:286]: I would prefer to avoid the lemma `isLinearTopology_iff_exists_submodule_isOpen_subset` which looks un-idiomatic to me.
(suggestion that can be golfed a little bit.)

```suggestion
  simp only [isLinearTopology_iff_hasBasis_submodule, hasBasis_iff]
  intro s
  refine ⟨fun h0s ↦ ?_, fun ⟨V, hV0, hVs⟩ ↦ mem_of_superset hV0 hVs⟩
  obtain ⟨V, hV⟩ := NonarchimedeanAddGroup.is_nonarchimedean s h0s
  exact ⟨V.1.toIntSubmodule, (isOpen_iff_mem_nhds.mp V.2) 0 V.zero_mem, hV⟩
```

File: Mathlib/Topology/Algebra/LinearTopology.lean [hunk 4]
```diff
@@ -261,6 +271,96 @@ theorem _root_.IsCentralScalar.isLinearTopology_iff [Module Rᵐᵒᵖ M] [IsCen
...
+
+lemma restrictScalars [SMul R S] [IsScalarTower R S M] [hS : IsLinearTopology S M] :
+    IsLinearTopology R M := by
+  rw [isLinearTopology_iff_hasBasis_submodule] at hS ⊢
+  exact hS.to_hasBasis' (fun N hN ↦ ⟨N.restrictScalars R, hN, by simp⟩) (by simp)
+
+lemma of_restrictScalars [Module R S] [IsScalarTower R S M] [Module.Finite R S]
+    [IsLinearTopology R M] [ContinuousAdd M] [ContinuousConstSMul S M] :
+    IsLinearTopology S M := by
+  rw [isLinearTopology_iff_exists_submodule_isOpen_subset]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Algebra/LinearTopology.lean:343]: same comment as above, using nhds of zero rather than open sets seems more idiomatic. What would @ADedecker say?

File: Mathlib/Topology/Algebra/LinearTopology.lean [hunk 5]
```diff
@@ -261,6 +271,96 @@ theorem _root_.IsCentralScalar.isLinearTopology_iff [Module Rᵐᵒᵖ M] [IsCen
...
+  intro s hs h0s
+  obtain ⟨N, hN, hNs⟩ := (IsLinearTopology.hasBasis_open_submodule R).mem_iff.mp (hs.mem_nhds h0s)
+  refine ⟨_, ?_, subset_trans (Submodule.leAddSubgroup_le _ N.toAddSubgroup) hNs⟩
+  obtain ⟨s, hs⟩ := Module.Finite.fg_top (R := R) (M := S)
+  convert isOpen_biInter_finset (s := s) (fun i _ ↦ (continuous_const_smul i).isOpen_preimage _ hN)
+  ext
+  simp [Submodule.mem_leAddSubgroup_iff_of_span_eq_top _ hs]
+
+lemma iff_restrictScalars [Module R S] [IsScalarTower R S M] [Module.Finite R S]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Algebra/LinearTopology.lean:352]: There could be an additional `iff` lemma that builds on the above result for compact modules.

File: Mathlib/Topology/Algebra/LinearTopology.lean [hunk 6]
```diff
@@ -154,6 +154,16 @@ theorem _root_.isLinearTopology_iff_hasBasis_open_submodule [ContinuousAdd M] :
       (fun N : Submodule R M ↦ IsOpen (N : Set M)) (fun N : Submodule R M ↦ (N : Set M)) :=
   ⟨fun _ ↦ hasBasis_open_submodule R, fun h ↦ .mk_of_hasBasis R h⟩
 
+theorem _root_.isLinearTopology_iff_exists_submodule_isOpen_subset [ContinuousAdd M] :
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/Algebra/LinearTopology.lean:157]: I second Antoine's opinion: in a lot of cases, it is better to use the `HasBasis` API rather than go back to that explicit statement. 

That said, I don't think we can make an argument for *not* having this lemma at all, since this is not the last time people will look for it. I think the best is to put it here with a comment suggesting to try using the `HasBasis` version instead.

File: Mathlib/Topology/Algebra/LinearTopology.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/LinearTopology.lean:286]: The real way to trivialize this lemma and the one above would be to have a proper description of [NonarchimedeanGroup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Nonarchimedean/Basic.html#NonarchimedeanGroup) in terms of filter bases, which simply doesn't exist at the time being!

Adding the lemmas would be relatively easy, but it might be worth changing the definition as well... although I'm not sure how disturbing this would be for the FLT team...

File: Mathlib/Topology/Algebra/LinearTopology.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/LinearTopology.lean:288]: I think this duplication is essentially unavoidable, and I believe the instance is essentially harmless (note there are no possible loops because `IsLinearTopology` --> `NonarchimedeanAddGroup` cannot be an instance).

File: Mathlib/Topology/Algebra/LinearTopology.lean [hunk 7]
```diff
@@ -261,6 +271,96 @@ theorem _root_.IsCentralScalar.isLinearTopology_iff [Module Rᵐᵒᵖ M] [IsCen
...
+  exact ⟨V.1.toIntSubmodule, V.2, hV⟩
+
+instance [NonarchimedeanAddGroup M] : IsLinearTopology ℤ M :=
+  isLinearTopology_int_iff_nonarchimedeanAddGroup.mpr inferInstance
+
+section CompactSpace
+
+variable [TopologicalSpace R] [CompactSpace R] [ContinuousSMul R M]
+
+lemma _root_.Submodule.isOpen_leAddSubgroup_of_compactSpace
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/LinearTopology.lean:295]: Is there a result about modules over linearly compact algebras which would generalize both this and `of_restrictScalars` ?

Comment (ADedecker) [reply Mathlib/Topology/Algebra/LinearTopology.lean:295]: In another direction: @AntoineChambert-Loir, do you see some lemma about "group with operators" (and some kind of compactness on the operators) which would encompass both this lemma and e.g [IsTopologicalGroup.exist_openSubgroup_sub_clopen_nhd_of_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/OpenSubgroup.html#IsTopologicalGroup.exist_openSubgroup_sub_clopen_nhd_of_one) ?

I'm not suggesting that we formalize linearly compact algebras nor groups with operators for the sake of this PR of course, these are mostly potential future additions.

File: Mathlib/LinearAlgebra/Span/Basic.lean [hunk 8]
```diff
@@ -420,6 +420,41 @@ lemma isCompl_comap_subtype_of_isCompl_of_le {p q r : Submodule R M}
     IsCompl (q.comap p.subtype) (r.comap p.subtype) := by
   simpa [p.mapIic.isCompl_iff, Iic.isCompl_iff] using Iic.isCompl_inf_inf_of_isCompl_of_le h₁ h₂
 
+variable (R) in
+/-- The largest submodule contained in an additive subgroup of a module. -/
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/LinearAlgebra/Span/Basic.lean:424]: I don't think that's true? There is no largest subspace contained in the union of two (distinct) lines passing through the origin. Of course you could consider a maximal one, but I'm not sure how useful that is as a general API.

I think the proper generality here would again be that of Bourbaki's "groups with operators", but for now I think I'm happy with this.

I would like a different name though. What about `Submodule.core` or `AddSubgroup.submoduleCore`? Is there a more standard name?

File: Mathlib/Topology/Algebra/LinearTopology.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/LinearTopology.lean:295]: Tu as le nez creux.
It seems both this result and the one of this PR are precisely particular cases of a similarly stated results for groups with operators, and I'd guess the proofs are the same — how couldn't they? (Does mathlib have them?)

File: Mathlib/LinearAlgebra/Span/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Span/Basic.lean:424]: I delete my remark.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Span/Basic.lean:424]: What seems to be true, anyway, is that the supremum of the submodules contained in an add subgroup is actually contained in that add subgroup — and is the largest such thing.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Span/Basic.lean:424]: docs#Subgroup.normalCore is the largest normal subgroup contained in a subgroup, and it's also a similar thing for groups with operators (the operators are the conjugacy operators of the group on itself).

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Span/Basic.lean:424]: And if mathlib's existing code serves as a guide for good taste, docs#Subgroup.normalCore is proved in exactly the same way as done here.

**Comment by grunweg** [comment]
Let me override the automated assignment and assign both Anatole and Antoine, as you have been reviewing this PR already.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
